US07268135B2
Step 1A [Intermediate 1] To a dry round-bottom flask was added 4-Bromo-benzenesulfonyl chloride (12.2 g, 47.7 mmol, 1 equiv.), anhydrous methylene chloride (170 mL), and H-D-Val-OMe (8.0 g, 47.7 mmol, 1 equiv.). The mixture was cooled to 0° C. in an ice bath followed by the addition of Hunig base (19.11 mL, 109.7 mmol, 2.3 equiv.). The reaction mixture was allowed to warm to room temperature and was stirred overnight. Reaction was complete as determined by TLC. The reaction mixture was then diluted with dichloromethane (100 mL) and washed with brine. The organic layer was dried over anhydrous MgSO4, solvent evaporated to yield 2-(4-Bromo-benzenesulfonylamino)-3-methyl-butyric acid methyl ester in 96% yield (16.0 g). 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 0.87 (d, J=6.82 Hz, 3 H) 0.96 (d, J=6.82 Hz, 3 H) 2.04 (m, 1 H) 3.49 (s, 3 H) 3.74 (d, J=14.40 Hz, 1 H) 5.10 (d, J=9.85 Hz, 1 H) 7.66 (m, 4 H).

reactant | 4-Bromo-benzenesulfonyl chloride | 47.7 mmol, 12.2 g, 1 equiv. | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | H-D-Val-OMe | 47.7 mmol, 8.0 g, 1 equiv. | N[C@H](C(C)C)C(=O)OC | C6H13NO2
reactant | Hunig base | 109.7 mmol, 19.11 mL, 2.3 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | methylene chloride | 170 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Bromo-benzenesulfonylamino)-3-methyl-butyric acid methyl ester | 96% yield | COC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)Br)=O | C12H16BrNO4S
